US05861510
(+)-(2R*-3R*)-N-hydroxy-1-(4-methoxybenzenesulfonyl)-3-phenyl-piperidine-2-carboxamide
To a solution of (+)-(2R*-3R*)-N-benzyloxy-1-(4-methoxybenzenesulfonyl)-3-phenyl-1,2,3,6tetrahydropyridine-2-carboxamide (35 mg, 0.073 mmol) in ethanol (5 ml) is added 10% palladium on carbon (10 mg, 5 mol). The flask is evacuated and backfilled with hydrogen (repeated two times). The reaction mixture is then stirred for 1 hour at which time it is filtered through Celite™ and concentrated. The product (+)-2R*-3R*)-N-hydroxy-1-(4-methoxybenzenesulfonyl)-3-phenylpiperidine-2-carboxamide was collected as a white solid. Melting point 163° C. (dec). Mass spectrum [PBMS w/C.I. (NH3)]: m/Z 390 (m+H2), (m+NH4). 1H NMR (CD3OD) δ7.73 (d, J=8.9 Hz, 2 H), 7.31-737 (m, 5 H), 7.04 (d, 8.9 Hz, 2 H0, 4.89 (s, H2O), 4.34 (d, J=5.4 Hz,1 H), 3.86 (s, 3 H), 3.74-3.63 (m, 2 H), 3.31 (bs, CD3OD), 2.99-2.90 (m, 1 H), 2.58-2.52 (m, 1 H), 1.94-1.88 (m, 1 H), 1.67-160 (m, 2 H).

reactant | (+)-(2R*-3R*)-N-benzyloxy-1-(4-methoxybenzenesulfonyl)-3-phenyl-1,2,3,6tetrahydropyridine-2-carboxamide | 0.073 mmol, 35 mg | C(C1=CC=CC=C1)ONC(=O)[C@@H]1N(CC=C[C@@H]1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H26N2O5S
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 5 mol, 10 mg | [Pd] | Pd
product | (+)-(2R*-3R*)-N-hydroxy-1-(4-methoxybenzenesulfonyl)-3-phenyl-piperidine-2-carboxamide | ONC(=O)[C@@H]1N(CCC[C@@H]1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C19H22N2O5S
